US08076516B2
Grignard reaction between cyclohexanecarbaldehyde and 3-bromobenzyl magnesium bromide (0.25M in ether) gave 2-(3-bromophenyl)-1-cyclohexylethanol as a white solid. Yield (1.62 g, 23%): 1H NMR (400 MHz, DMSO-d6) δ 7.39 (d, J=0.8 Hz, 1H), 7.34-7.31 (m, 1H), 7.20-7.17 (m, 2H), 4.37 (d, J=6.0 Hz, 1H), 3.38-3.32 (m, 1H), 2.69 (dd, J=13.6, 3.6 Hz, 1H), 2.51-2.45 (dd, obs., 1H), 1.78-1.60 (m, 5H), 1.24-0.94 (m, 6H).

reactant | cyclohexanecarbaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | 3-bromobenzyl magnesium bromide | 0.25M | BrC=1C=C(C[Mg]Br)C=CC1
product | 2-(3-bromophenyl)-1-cyclohexylethanol | BrC=1C=C(C=CC1)CC(O)C1CCCCC1 | C14H19BrO
